US05436224
Production of 3-(1,1-dimethyl-2-phenylethyl)6-methyl-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 700)
5-phenyl-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one (0.65 g) and N-methylene-1,1-dimethyl-2-phenylethylamine (0.63 g) were reacted at 140° for 30 minutes. The reaction mixture was purified by silica gel chromatography to obtain the captioned compound (0.74 g).

reactant | 5-phenyl-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one | 0.65 g | C1(=CC=CC=C1)C=1C(OC(OC1C)(C)C)=O | C13H14O3
reactant | N-methylene-1,1-dimethyl-2-phenylethylamine | 0.63 g | C=NC(CC1=CC=CC=C1)(C)C | C11H15N
product | 3-(1,1-dimethyl-2-phenylethyl)6-methyl-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | 0.74 g | CC(CC1=CC=CC=C1)(C)N1COC(=C(C1=O)C1=CC=CC=C1)C | C21H23NO2
